US04421758
(f) Cis-1-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole
As in Example 1(b), 16 mg of imidazole, 10 mg of 55% sodium hydride and 70 mg of cis-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran were reacted in dimethylformamide, to give 37 mg of the title compound in the form of a colourless oil.

reactant | imidazole | 16 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | cis-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 70 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=CC(=C1)Cl | C20H22Cl2O5S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Cis-1-[6-(2,4-dichlorobenzyloxy)tetrahydropyran-2-ylmethyl]imidazole | 37 mg | ClC1=C(CO[C@@H]2CCC[C@@H](O2)CN2C=NC=C2)C=CC(=C1)Cl | C16H18Cl2N2O2
